US06333324B1
A mixture of sodium 5-(4-trifluoromethylphenyl)thiophene sulfonate (1.50 g) and DMF (498 mg) in thionyl chloride (7.5 ml) was stirred for 2 hours at 50° C. The mixture was concentrated and partitioned between AcOEt and 3% aqueous sodium bicarbonate. The organic layer was separated, washed with 3% aqueous NaHCO3 solution and brine, dried over sodium sulfate and evaporated in vacuo after filtration to give 1.39 g of 5-(4-trifluoromethylphenyl)thiophene-2-sulfonylchloride as a solid.

reactant | sodium 5-(4-trifluoromethylphenyl)thiophene sulfonate | 1.50 g | FC(C1=CC=C(C=C1)C1=CC=C(S1)S(=O)(=O)[O-])(F)F.[Na+]
reactant | DMF | 498 mg | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 7.5 ml | S(=O)(Cl)Cl | Cl2OS
product | 5-(4-trifluoromethylphenyl)thiophene-2-sulfonylchloride | 1.39 g | FC(C1=CC=C(C=C1)C1=CC=C(S1)S(=O)(=O)Cl)(F)F | C11H6ClF3O2S2
